US05451601
A solution of 2.25 g of (3aR,7R,7aR)-2-t-butoxycarbonyl-4,4-diphenyl-7-fluoroperhydroisoindole in 25 cm3 of dioxane is treated with a 5.8N solution of hydrochloric acid in dioxane and stirred for 2 hours at 20° C. and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is concentrated by adding 100 cm3 of isopropyl oxide, the solid is filtered and dried to give 1.8 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride, in the form of a cream-colored powder. Proton NMR spectrum (DMSO-d6): 1.0-1.35 (mt, 1H of CH2 in 6); 4.9 (broad d, J=50, 1H, CHF); 7.1 to 7.5 (mt, 14H, aromatics); 9.05 and 9.9 (2 mf, 2×1H, NH2+).

reactant | (3aR,7R,7aR)-2-t-butoxycarbonyl-4,4-diphenyl-7-fluoroperhydroisoindole | 2.25 g | C(C)(C)(C)OC(=O)N1C[C@@H]2[C@@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H30FNO2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 25 cm3 | O1CCOCC1 | C4H8O2
product | (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride | 1.8 g | Cl.C1(=CC=CC=C1)C1([C@@H]2CNC[C@@H]2[C@@H](CC1)F)C1=CC=CC=C1 | InChI=1S/C20H22FN.ClH/c21-19-11-12-20(15-7-3-1-4-8-15,16-9-5-2-6-10-16)18-14-22-13-17(18)19;/h1-10,17-19,22H,11-14H2;1H/t17-,18+,19+;/m0./s1
